US05245037
6.5 g of benzyl alcohol was dissolved in 150 ml of benzene. While the resultant solution was cooled with water, 2.4 g of sodium hydride (60%) was added and reacted. To the reaction mixture was added 15 g of benzyl 2,3,4,6-tetrafluorobenzoate, and stirred at room temperature for 1 hour. 3.6 g of acetic acid was added, followed by the removal of the solvent by distillation. To the residue, 6.5 g of potassium hydroxide and 50 ml of water and 100 ml of methanol were added. They were reacted at 50° C. for 30 minutes. 6 g of acetic acid was added, followed by the removal of the solvent by distillation. To the residue were added 50 ml of benzene and 7% aq. potassium hydroxide solution. The resultant mixture was shaken, followed by separation into two layers. Concentrated hydrochloric acid was added to the water layer so that the water layer was rendered acidic. The thus-acidified water layer was extracted twice with 100 ml portions of chloroform. The extract was treated with anhydrous magnesium sulfate and the solvent was distilled out. A solid thus formed was dispersed in n-hexane and then collected by filtration, whereby 4.7 g of 6-benzyloxy-2,3,4-trifluorobenzoic acid was obtained as colorless powder.

reactant | benzyl alcohol | 6.5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | benzyl 2,3,4,6-tetrafluorobenzoate | 15 g | FC1=C(C(=O)OCC2=CC=CC=C2)C(=CC(=C1F)F)F | C14H8F4O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
solvent | acetic acid | 6 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3.6 g | C(C)(=O)O | C2H4O2
product | 6-benzyloxy-2,3,4-trifluorobenzoic acid | 4.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1C(=O)O)F)F)F | C14H9F3O3
